US06476030B1
1-Methylbenzimidazole (5.0 g, 0.038 mol) was stirred at reflux in 37 wt % aqueous formaldehyde (50 ml) for 24 h. The solution was allowed to cool to room temperature then basified with saturated sodium hydrogen carbonate solution and then extracted with. dichloromethane (3×50 ml). The combined organic layers were dried over magnesium sulfate and were concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 2.5 to 10% methanol in dichloromethane. The resultant semi-solid was triturated with isohexane to yield a solid, which was then recrystallised from ethyl acetate/isohexane, yielding (1-methyl-1H-benzimidazol-2-yl)methanol as a white solid (0.71 g). Data for the title compound: 1H NMR (400 MHz, CDCl3) δ 3.81 (3H, s), 4.89 (2H, s), 7.26 (3H, m), 7.69 (1H, m); MS (ES+) m/e 163 [MH]+.

reactant | 1-Methylbenzimidazole | 0.038 mol, 5.0 g | CN1C=NC2=C1C=CC=C2 | C8H8N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | formaldehyde | 50 ml | C=O | CH2O
product | (1-methyl-1H-benzimidazol-2-yl)methanol | 0.71 g | CN1C(=NC2=C1C=CC=C2)CO | C9H10N2O
